US06774136B2
7-Methoxy-1-(morpholin-4-yl-o-tolylmethyl)-naphthalen-2-ol
The preparation was carried out in accordance with general synthesis instructions 4 from 7-methoxy-2-naphthol and 4-(2-methyl-benzylidene)-morpholin-4-ium chloride, which had been prepared in accordance with example 18.

reactant | 7-methoxy-2-naphthol | COC1=CC=C2C=CC(=CC2=C1)O | C11H10O2
reactant | 4-(2-methyl-benzylidene)-morpholin-4-ium chloride | [Cl-].CC1=C(C=[N+]2CCOCC2)C=CC=C1
product | 7-Methoxy-1-(morpholin-4-yl-o-tolylmethyl)-naphthalen-2-ol | COC1=CC=C2C=CC(=C(C2=C1)C(C1=C(C=CC=C1)C)N1CCOCC1)O | C23H25NO3
